US07125901B2
4-[4-(2-Aminoethyl)phenyl]-1,3-thiazol-2-amine dihydrochrolide (0.45 g) was dissolved in 1,4-dioxane (10 mL), water (3 mL) and 1N sodium hydroxide solution (3.1 mL). Di-tert-butyl dicarbonate (336 mg) was added at 0° C. The mixture was stirred at room temperature overnight, then extracted with ethyl acetate, washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. The solid was washed with ethyl ether, and dried in vacuo to give tert-butyl {2-[4-(2-amino-1,3-thiazol-4-yl)phenyl]ethyl}carbamate as a white solid (311 mg, 63.2%).

reactant | 4-[4-(2-Aminoethyl)phenyl]-1,3-thiazol-2-amine | NCCC1=CC=C(C=C1)C=1N=C(SC1)N | C11H13N3S
reactant | water | 3 mL | O | H2O
reactant | sodium hydroxide | 1N, 3.1 mL | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 336 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | tert-butyl {2-[4-(2-amino-1,3-thiazol-4-yl)phenyl]ethyl}carbamate | 311 mg, 63.2% | NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C16H21N3O2S
